US09107916B2
A. methyl 4-(2,6-difluorophenyl)-3-oxobutanoate
The title compound was prepared from 2-(2,6-difluorophenyl)acetic acid and 3-methoxy-3-oxopropanoic acid potassium salt according to the procedure for the preparation of Example 170, part A. 1H NMR (300 MHz, CDCl3): δ 3.56 (2H, s), 3.75 (3H, s), 3.92 (2H, s), 6.89-6.93 (2H, m), 7.22-7.27 (1H, m).

reactant | 2-(2,6-difluorophenyl)acetic acid | FC1=C(C(=CC=C1)F)CC(=O)O | C8H6F2O2
reactant | 3-methoxy-3-oxopropanoic acid potassium salt | [K+].COC(CC(=O)[O-])=O
product | methyl 4-(2,6-difluorophenyl)-3-oxobutanoate | FC1=C(C(=CC=C1)F)CC(CC(=O)OC)=O | C11H10F2O3
